US04036850
99 g (1.40 mol) of chlorine are introduced with stirring at about 0 to 5° C. into a solution of 100 g of acrylic acid amide in 1000 ml of chloroform. After stirring for 3 hours at about 20° C., 270 g (2.13 mol) of oxalyl chloride are added dropwise with continued stirring. The solution is then boiled under reflux until the evolution of gas is complete. Fractional distillation of the reaction solution gives 172 g (72 % of the theoretical amount) of 2,3-dichloropropionyl isocyanate boiling at 38 to 41° C./1.0 Torr.

reactant | chlorine | 1.40 mol, 99 g | ClCl | Cl2
reactant | acrylic acid amide | 100 g | C(C=C)(=O)N | C3H5NO
reactant | oxalyl chloride | 2.13 mol, 270 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-dichloropropionyl isocyanate | ClC(C(=O)N=C=O)CCl | C4H3Cl2NO2
